* source I-NAND
.EXTERNAL INPUT IN1
.EXTERNAL INPUT IN2
.EXTERNAL INPUT IN3
.EXTERNAL INPUT IN4
.EXTERNAL INPUT IN5
.EXTERNAL INPUT IN6
.EXTERNAL INPUT IN7
.EXTERNAL INPUT IN8
.EXTERNAL INPUT VDD
.EXTERNAL INPUT OUT
.EXTERNAL INPUT GND
M_M15         N66545 IN8 GND GND CMOSN  
+ L=.18u  
+ W=.18u         
R_R12         IN7 0  10Meg  
M_M8         OUT N38148 N38134 N38134 CMOSP  
+ L=.18u  
+ W=.2u         
V_VDD         N39971 0 3.3
M_M16         OUT IN4 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
V_V4         N38148 0  
+SIN 1.5 1.5 500k 0 0 0
R_R10         IN5 0  10Meg  
M_M5         OUT IN1 N39971 N39971 CMOSP  
+ L=.18u  
+ W=.2u         
M_M27         OUT IN8 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
M_M19         OUT IN1 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
R_R7         IN3 0  10Meg  
M_M17         OUT IN6 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
M_M6         OUT IN1 N39991 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M20         OUT IN5 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
R_R9         IN8 0  10Meg  
M_M23         OUT IN1 N67513 GND CMOSN  
+ L=.18u  
+ W=.18u         
M_M11         N38478 IN4 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M9         OUT N37986 N38134 N38134 CMOSP  
+ L=.18u  
+ W=.2u         
M_M28         N66403 IN3 N66443 GND CMOSN  
+ L=.18u  
+ W=.18u         
M_M2         N39991 IN2 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M13         N66443 IN4 N66955 GND CMOSN  
+ L=.18u  
+ W=.18u         
V_V5         N37986 0  
+SIN 1.5 1.5 500k 0 0 0
V_VDD1         N38134 0 3.3
M_M1         OUT IN1 N38142 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V1         IN1 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M24         N67513 IN2 N66403 GND CMOSN  
+ L=.18u  
+ W=.18u         
M_M21         N67225 IN6 N67231 GND CMOSN  
+ L=.18u  
+ W=.18u         
M_M18         N66955 IN5 N67225 GND CMOSN  
+ L=.18u  
+ W=.18u         
V_V3         IN1 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M4         OUT IN2 N39971 N39971 CMOSP  
+ L=.18u  
+ W=.2u         
R_R8         IN4 0  10Meg  
M_M10         N38438 N37986 N38478 0 CMOSN  
+ L=.18u  
+ W=.18u         
R_R13         IN1 0  10Meg  
M_M3         N38142 N38148 N38438 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M25         OUT IN2 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
M_M22         N67231 IN7 N66545 GND CMOSN  
+ L=.18u  
+ W=.18u         
V_V6         IN4 0  
+SIN 1.5 1.5 500k 0 0 0
R_R14         IN2 0  10Meg  
V_V2         IN2 0  
+SIN 1.5 1.5 500k 0 0 0
M_M12         OUT IN4 N38134 N38134 CMOSP  
+ L=.18u  
+ W=.2u         
R_R11         IN6 0  10Meg  
M_M7         OUT IN1 N38134 N38134 CMOSP  
+ L=.18u  
+ W=.2u         
M_M14         OUT IN7 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
M_M26         OUT IN3 VDD VDD CMOSP  
+ L=.18u  
+ W=.2u         
