* source I-NAND
V_V1         N29931 0 3.3
M_M5         N29915 N29941 N29931 N29931 CMOSP  
+ L=.25u  
+ W=.93u         
V_V2         N29941 0 0Vdc
M_M6         N29915 N29941 0 0 CMOSN  
+ L=.43u  
+ W=.43u         
