* source I-SUMADOR
R_R4         N12085 N11979  1k  
R_R5         N12085 N11992  1k  
X_U1A         0 N12085 N11946 0 N12284 LM158
V_V1         N11946 0 2
R_R1         N11979 N11946  10k  
R_R2         N11992 N11979  10k  
R_R7         N12284 N12085  1k  
R_R3         0 N11992  10k  
