* source I-TESTCURRENT-001
I_I1         N20034 0 DC 0Adc AC 0Aac
+EXP 0m 1m 1.5p .5p 2.5p 1.5p
I_I2         N20034 0 DC 0Adc AC 0Aac
+PULSE 0 .25m 1.5p .8p 130p 9p 0
R_R2         0 ITEST  1k TC=0,0 
R_R1         N20034 ITEST  1k TC=0,0 
