* source I-TESTCURRENT-001
I_I1         N17870 0 DC 0Adc AC 0Aac
+EXP 0 2m 2n 80p 5.5n 1n
R_R1         N17870 ITEST  1k TC=0,0 
R_R2         0 ITEST  1k TC=0,0 
